US08222248B2
To a mixture of 2,6-dichloro-4-hydroxybenzaldehyde (1.00 g, 5.24 mmol) and K2CO3 (1.45 g, 10.5 mmol) in THF (25 mL) under N2 was added dropwise1-bromomethyl-4-methoxybenzene (1.10 mL, 7.85 mmol). The reaction was heated at 65° C. for 3 h, at 45° C. overnight then at 65° C. for 3 hr. The reaction was allowed to cool to ambient temperature then was filtered and the filtrate concentrated under reduced pressure. The concentrate was diluted with EtOAc (150 mL) and extracted with water (30 mL). The organic phase was dried over Na2SO4 and evaporated. The residue was purified by silica gel chromatography using a gradient of 5-15% EtOAc/heptane as eluent to afford 2,6-dichloro-4-(4-methoxybenzyloxy)-benzaldehyde as a white solid. MS (m/z) 311.0 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 10.28 (s, 1H), 7.40 (d, J=8.59 Hz, 2H), 7.29 (s, 2H), 6.97 (d, J=8.72 Hz, 2H), 5.19 (s, 2H), 3.76 (s, 3H).

reactant | 2,6-dichloro-4-hydroxybenzaldehyde | 5.24 mmol, 1.00 g | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | K2CO3 | 10.5 mmol, 1.45 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-4-(4-methoxybenzyloxy)-benzaldehyde | ClC1=C(C=O)C(=CC(=C1)OCC1=CC=C(C=C1)OC)Cl | C15H12Cl2O3
